US04483984
Diphenyl ether (67 grams) was mixed with about 79 grams of propionyl chloride and 109 grams of aluminum chloride in about 150 ml of carbon disulfide. The product, 4-propionylphenyl ether, was isolated by hydrolysis of the mixture and conventional recrystallization techniques.

reactant | Diphenyl ether | 67 grams | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | propionyl chloride | about 79 grams | C(CC)(=O)Cl | C3H5ClO
reactant | aluminum chloride | 109 grams | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | about 150 ml | C(=S)=S | CS2
product | 4-propionylphenyl ether | C(CC)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(CC)=O | C18H18O3
